US07582667B2
Preparation of 3-Methoxy-2-methylbenzaldehyde
A stirred suspension of pyridinium chlorochromate (19.2 g; 89.2 mmol) in dichloromethane at ambient temperature was treated with a solution of (3-methoxy-2-methylphenyl)methanol (9.05 g; 59.47 mmol) in dichloromethane. The reaction solution immediately turned a greenish-brown color. The reaction was stirred for 3.5 hr, diluted 50% with diethyl ether and decanted. The brown gummy residue was triturated twice more with diethyl ether (40 mL) and the ether extracts were combined and evaporated to yield a yellow oil. The oil was passed through a column of silica gel with an ether/hexane mixture to yield the title product, 8.74 g; 97% yield.

reactant | pyridinium chlorochromate | 89.2 mmol, 19.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | (3-methoxy-2-methylphenyl)methanol | 59.47 mmol, 9.05 g | COC=1C(=C(C=CC1)CO)C | C9H12O2
reactant | ether hexane | CCOCC.CCCCCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Methoxy-2-methylbenzaldehyde | 97% yield | COC=1C(=C(C=O)C=CC1)C | C9H10O2
